US07829560B2
A mixture of 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide (0.1 mmol) and methanol (1.0 ml) in DMSO (0.5 ml) is heated using a microwave source at 180° C. for 5 min. The resulting mixture is diluted with CH2Cl2 (5 ml), washed with water, dried over Na2SO4 and concentrated. Purification of the residue by column chromatography on silica gel (50% EtOAc in hexane) gives 3-fluoro-N-{4-[(2-methoxypyrimidin-4-yl)oxy]-1-naphthyl}-5-morpholin-4-ylbenzamide as a white solid (31 mg). Mp: 216-217° C.; 1H NMR (300 MHz, CDCl3) δ 3.25 (t, J=4.8 Hz, 4H), 3.84 (s, 3H), 3.87 (t, J=4.8 Hz, 4H), 6.53 (d, J=5.7 Hz, 1H), 6.77 (d, J=12 Hz, 1H), 7.06 (d, J=8.4 Hz, 1H), 7.31-7.34 (m, 2H), 7.49-7.60 (m, 2H), 7.89-7.97 (m, 3H), 8.15 (s, 1H), 8.36 (d, J=5.7 Hz, 1H); MS 475 (M+1).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | 0.1 mmol | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | methanol | 1.0 ml | CO | CH4O
solvent | DMSO | 0.5 ml | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-N-{4-[(2-methoxypyrimidin-4-yl)oxy]-1-naphthyl}-5-morpholin-4-ylbenzamide | 31 mg | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)OC)C=C(C1)N1CCOCC1 | C26H23FN4O4
